US06297401B1
Preparation of N-(3-ethyl-3,5,5-trimethylcyclohexyl)2-hydroxy-3-nitrobenzamide
To a stirred soution of 3-ethyl-3,5,5-trimethylcyclohexylamine (3.20 g, a 6:4 mixture of axial:equatorial ethyl diastereomers), triethylamine (2.13 g) and 4-dimethylaminopyridine (DMAP) (0.12 g) in dichloromethane (50 ml) was added, in a rapid dropwise manner, a solution of 2-hydroxy-3-nitrobenzoyl chloride (3.83 g) in dichloromethane (10 ml). After the addition was complete, the reaction mixture was stirred at room temperature for 12 hours, then poured into 1N HCl (250 ml). The organic layer was separated, and the aqueous layer washed with dichloromethane (50 ml). The organic phases were combined, dried (MgSO4) and the solvent evaporated to give a yellow solid (5.70 g). Recrystallization from methanol gave an analytical sample (m.p. 125-128° C.). The 13C NMR of this material showed it to be a mixture of diastereomers in an approximate ratio of 6:4.

reactant | 3-ethyl-3,5,5-trimethylcyclohexylamine | C(C)C1(CC(CC(C1)(C)C)N)C | C11H23N
reactant | triethylamine | 2.13 g | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxy-3-nitrobenzoyl chloride | 3.83 g | OC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C7H4ClNO4
reactant | HCl | 1N, 250 ml | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3-ethyl-3,5,5-trimethylcyclohexyl)2-hydroxy-3-nitrobenzamide | 5.70 g | C(C)C1(CC(CC(C1)(C)C)NC(C1=C(C(=CC=C1)[N+](=O)[O-])O)=O)C | C18H26N2O4
